// Copyright (c) 2021 Arm Ltd.
// All rights reserved.
//
// SPDX-License-Identifier: BSD-3-Clause
//
// Engineer: fernando.garciaredondo@arm.com
//           pranay.prabhat@arm.com
// 
// Arm MTJ structure, with generic conduction, in a subcircuit form

simulator lang=spectre

ahdl_include "llg_spherical_solver.va"


subckt mtj_subcircuit (pl fl mz h_ext_x h_ext_y h_ext_z)
parameters p_do_thermal=0 p_do_theta_windowing=0 p_do_fake_thermal=0 p_atol=1e-6
+ p_theta_init=0.01414119
+ p_p=0.75
+ p_tmr = 2*p_p*p_p/(1-p_p*p_p)
+ p_r_p=6e3
+ p_r_contact = 2

// llgs solver
llgs ( aux_0 aux_1 mz h_ext_x h_ext_y h_ext_z) LLGs_va \
    p_theta_init=p_theta_init \
    p_do_thermal=p_do_thermal \
    p_do_theta_windowing=p_do_theta_windowing \
    p_do_fake_thermal=p_do_fake_thermal \
    p_atol=p_atol

//i_aux (0 aux_0) bsource i=i(r_mtj_module)*((1+i(r_mtj_module)/(abs(i(r_mtj_module))))*((i_atp-i_pta)/2)+i_pta)
i_aux (0 aux_0) bsource i=i(r_mtj_module)
v_aux (aux_1 0) bsource v=v(fl, pl)
r_aux (aux_0 0) resistor r=1

// simple TMR based conduction
r_mtj_module (fl pl) bsource r=p_r_p*(1 + p_tmr/(p_tmr + 2))/(1 - p_tmr/(p_tmr + 2)*V(mz))

ends mtj_subcircuit

subckt mtj_subcircuit_no_hext (pl fl)
parameters p_do_thermal=0 p_do_theta_windowing=0 p_do_fake_thermal=1 p_atol=1e-6
+ p_theta_init=0.01414119

// __NO_H_EXT__
V_hext_x h_ext_x 0 vsource type=dc dc=0
// __NO_H_EXT__
V_hext_y h_ext_y 0 vsource type=dc dc=0
// __NO_H_EXT__
V_hext_z h_ext_z 0 vsource type=dc dc=0

mtj (fl pl mz h_ext_x h_ext_y h_ext_z) mtj_subcircuit \
    p_theta_init=p_theta_init \
    p_do_thermal=p_do_thermal \
    p_do_theta_windowing=p_do_theta_windowing \
    p_do_fake_thermal=p_do_fake_thermal \
    p_atol=p_atol
ends mtj_subcircuit_no_hext
